US04168964
8-Methyl-6-(p-nitrophenyl)-imidazo[1,5-d]-as-triazine-4(3H)-one, monohydrate
3-{[2-(p-nitrophenyl)-5-methyl-4-imidazolyl]methylene}carbazic acid, methyl ester (2.5 gm., 0.082 mole) is immersed in diphenyl ether (25 ml.) at 240° C. for 20 minutes, then stirred in an ice bath for 1 hour. The reaction mixture is diluted with ether and filtered to afford 2.2 gm. (0.008 mole) title product. The product is purified via an acetone soxhlet extraction to give a yellow solid, m.p. 295°-297° C.

reactant | 3-{[2-(p-nitrophenyl)-5-methyl-4-imidazolyl]methylene}carbazic acid, methyl ester | 0.082 mole, 2.5 gm | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC(=C(N1)C=NNC(=O)OC)C | C13H13N5O4
solvent | diphenyl ether | 25 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ether | CCOCC | C4H10O
product | 8-Methyl-6-(p-nitrophenyl)-imidazo[1,5-d]-as-triazine-4(3H)-one, monohydrate | 0.008 mole | O.CC=1N=C(N2C(NN=CC21)=O)C2=CC=C(C=C2)[N+](=O)[O-] | InChI=1S/C12H9N5O3.H2O/c1-7-10-6-13-15-12(18)16(10)11(14-7)8-2-4-9(5-3-8)17(19)20;/h2-6H,1H3,(H,15,18);1H2
